US07449467B2
(1R,3S)-3-(2-Methoxyethyl)-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentanamine dihydrochloride
tert-Butyl [(1R,3S)-3-(2-methoxyethyl)-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentyl]carbamate (252 mg, 0.503 mmol) was dissolved in a 2 M solution of hydrogen chloride in ether (8 mL) and stirred at room temperature for 2 h. The reaction solution was concentrated to give the desird product as a yellow powder (0.36 g, 96%). MS calculated for C19H27F3N4O2 (M+H) 401.3; found 401.3.

reactant | tert-Butyl [(1R,3S)-3-(2-methoxyethyl)-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentyl]carbamate | 0.503 mmol, 252 mg | COCC[C@]1(C[C@@H](CC1)NC(OC(C)(C)C)=O)C(=O)N1CCN(CC1)C1=NC=CC(=C1)C(F)(F)F | C24H35F3N4O4
reactant | hydrogen chloride | Cl | ClH
solvent | ether | 8 mL | CCOCC | C4H10O
product | (1R,3S)-3-(2-Methoxyethyl)-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentanamine dihydrochloride | 0.36 g, 96% | Cl.Cl.COCC[C@]1(C[C@@H](CC1)N)C(=O)N1CCN(CC1)C1=NC=CC(=C1)C(F)(F)F | InChI=1S/C19H27F3N4O2.2ClH/c1-28-11-5-18(4-2-15(23)13-18)17(27)26-9-7-25(8-10-26)16-12-14(3-6-24-16)19(20,21)22;;/h3,6,12,15H,2,4-5,7-11,13,23H2,1H3;2*1H/t15-,18-;;/m1../s1
